US08497265B2
Triethylamine (2.2 g, 20.0 mmol), 3,4,6-trichloro-pyridazine (1.8 g, 10.0 mmol) and 1-(piperidin-4-yl)ethanone (1.3 g, 10.0 mmol) was dissolved in DMF (20 mL) and the resulting mixture was stirred at room temperature overnight. The mixture was then diluted with water (50 mL) and extracted with EtOAc (2×50 mL). The combined organic extracts were combined and washed with water (20 mL) and brine (20 mL), dried over Na2SO4, and filtered. The filtrate was evaporated in vacuo and the residue was purified by flash column chromatography on silica gel (20% to 50% EtOAc in hexanes) to give 1-(1-(3,6-dichloropyridazin-4-yl)piperidin-4-yl)ethanone (1.0 g, 3.8 mmol, 39% yield) as white solid. ESI-MS (M+1): 274 calc. for C11H13ClN3O 273.

reactant | Triethylamine | 20.0 mmol, 2.2 g | C(C)N(CC)CC | C6H15N
reactant | 3,4,6-trichloro-pyridazine | 10.0 mmol, 1.8 g | ClC=1N=NC(=CC1Cl)Cl | C4HCl3N2
reactant | 1-(piperidin-4-yl)ethanone | 10.0 mmol, 1.3 g | N1CCC(CC1)C(C)=O | C7H13NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 1-(1-(3,6-dichloropyridazin-4-yl)piperidin-4-yl)ethanone | 3.8 mmol, 1.0 g, 39% yield | ClC=1N=NC(=CC1N1CCC(CC1)C(C)=O)Cl | C11H13Cl2N3O
